US09238644B2
Key Intermediate 3: tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate (K3)
2,4-Dichloro-5-(trifluoromethyl)pyrimidine (4.122 g, 19.00 mmol) was stirred in a 1:1 t-BuOH:DCE mixture (400 mL) at room temperature. A 1.0 M ZnCl2 solution in Et2O (21.71 mL, 21.71 mmol) was added cautiously and the resulting mixture was stirred for 10 minutes. 1-Boc-4-(4-aminophenyl)piperidine (5.00 g, 18.1 mmol) was added followed by Et3N (6.052 mL, 43.42 mmol) and stirring continued at room temperature overnight. The volatiles were evaporated to dryness and the resulting residue was suspended in water (500 mL). After sonication for 30 minutes the suspension was filtered and the filter cake was washed with water (2×100 mL) and dried under a high vacuum to yield the title compound K3 as a tan solid (8.11 g, 98%); 1H NMR (400 MHz, d6-DMSO) δ 10.61 (s, 1H), 8.78 (s, 1H), 7.59 (d, J=8.4 Hz, 2H), 7.23 (d, J=8.5 Hz, 2H), 4.07 (d, J=11.1 Hz, 2H), 2.80 (s, 2H), 2.65 (t, J=12.0 Hz, 1H), 1.74 (d, J=12.3 Hz, 2H), 1.42 (s, 11H). LCMS-A: rt 6.834 min; m/z 457 [M+H]+.

reactant | 2,4-Dichloro-5-(trifluoromethyl)pyrimidine | 19.00 mmol, 4.122 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | Et2O | 21.71 mmol, 21.71 mL | CCOCC | C4H10O
reactant | 1-Boc-4-(4-aminophenyl)piperidine | 18.1 mmol, 5.00 g | C(=O)(OC(C)(C)C)N1CCC(CC1)C1=CC=C(C=C1)N | C16H24N2O2
reactant | Et3N | 43.42 mmol, 6.052 mL | CCN(CC)CC | C6H15N
catalyst | ZnCl2 | 1.0 M | [Cl-].[Cl-].[Zn+2]
solvent | DCE | 400 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | tert-Butyl 4-(4-((4-chloro-5-(trifluoromethyl)pyrimidin-2-yl)amino)phenyl)piperidine-1-carboxylate | ClC1=NC(=NC=C1C(F)(F)F)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C21H24ClF3N4O2
